US04034098
4-Cyclohexanesulphonamido-1-(4-phenyl-4-oxobutyl)piperidine
Using an analogous procedure to Example 2 4-amino-1-(4-phenyl-4-oxobutyl)piperidine may be reacted with cyclohexanesulphonyl chloride to give the title compound.

reactant | 4-amino-1-(4-phenyl-4-oxobutyl)piperidine | NC1CCN(CC1)CCCC(=O)C1=CC=CC=C1 | C15H22N2O
reactant | cyclohexanesulphonyl chloride | C1(CCCCC1)S(=O)(=O)Cl | C6H11ClO2S
product | 4-Cyclohexanesulphonamido-1-(4-phenyl-4-oxobutyl)piperidine | C1(CCCCC1)S(=O)(=O)NC1CCN(CC1)CCCC(=O)C1=CC=CC=C1 | C21H32N2O3S
